US06589978B2
(2RS,5SR)-5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic Acid Amide
A solution of (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester (1.3 g, 3.44 mmol) in MeOH (75 ml) and ammonium hydroxide solution (50 ml, 25%) was stirred at room temperature for 72 h. The volume of the solution was reduced to 50 ml and water (150 ml) was added. The title compound precipitated as a white solid (0.95 g, yield 76%), m.p. 137° C. and MS: m/e=363.1 (M+H+).

reactant | (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | 3.44 mmol, 1.3 g | COC(=O)C1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C19H20FNO4S
reactant | water | 150 ml | O | H2O
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
solvent | MeOH | 75 ml | CO | CH4O
product | (2RS,5SR)-5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic Acid Amide | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C(=O)N | C18H19FN2O3S
